US04554280
9.8 g of 5H-1,3-dioxolo(4,5-f)-benzimidazole-6-thiol were suspended in 200 ml of alcohol in a 500 ml sulfonation flask equipped with stirrer, thermometer, dropping funnel and reflux condenser and treated dropwise while stirring well with a solution of 4.47 g of sodium hydroxide in 100 ml of water. The mixture was stirred at room temperature for an additional 30 minutes. Then 9.15 g of 2-chloromethyl-5-methylpyridine hydrochloride were added thereto. The mixture was left to boil at reflux overnight and subsequently evaporated. The residue was taken up in 500 ml of ethyl acetate, extracted with 100 ml of 3N sodium hydroxide and washed neutral with water. The aqueous extracts were extracted once more with 500 ml of ethyl acetate. The combined organic phases were dried over sodium sulfate and evaporated in vacuo. After recrystallization from acetonitrile, the residue gave 13.3 g (87.6% of theory) of 6-[[(5-methyl-2-pyridyl)methyl]thio]-5H-1,3-dioxolo(4,5-f)benzimidazole of melting point 187°-188° C. When the residue was dissolved with heating in 50 ml of methanol and treated with 100 ml of 5N hydrochloric acid in ethyl acetate, there were obtained, with the same yield, 16.5 g of dihydrochloride of melting point 232°-234° C.

reactant | 5H-1,3-dioxolo(4,5-f)-benzimidazole-6-thiol | 9.8 g | O1COC2=CC3=C(N=C(N3)S)C=C21 | C8H6N2O2S
reactant | sodium hydroxide | 4.47 g | [OH-].[Na+]
reactant | 2-chloromethyl-5-methylpyridine hydrochloride | 9.15 g | Cl.ClCC1=NC=C(C=C1)C
solvent | water | 100 ml | O | H2O
product | 6-[[(5-methyl-2-pyridyl)methyl]thio]-5H-1,3-dioxolo(4,5-f)benzimidazole | 13.3 g, 87.6% | CC=1C=CC(=NC1)CSC=1NC2=C(N1)C=C1C(=C2)OCO1 | C15H13N3O2S
